US05942544
Part A. The 3-cyano benzaldehyde (2.0 gm, 15.3 mmol), malonic acid (1.6 gm, 15.3 mmol) and ammonium acetate (2.37 gm, 30.75 mmol) were combined in 35 mLs ethanol under a nitrogen atmosphere. The reaction mixture was heated over night to become a thick slurry. The slurry was filtered and the solids were washed with additional ethanol. The 3-(cyano)-beta-(amino)benzene propanoic acid was isolated as a white powder 1.58 gm (55%) MS 191(M+H)+ 1 H NMR (DMSO-d6): 8.11(s, 1H), 7.96(d, 1H), 7.90(d, 1H), 7.46(t,1H), 5.7(s,4H), 4.66(m, 1H), 3.61(dd, 1H), 3.06(dd, 1H).

reactant | 3-cyano benzaldehyde | 15.3 mmol, 2.0 gm | C(#N)C=1C=C(C=O)C=CC1 | C8H5NO
reactant | malonic acid | 15.3 mmol, 1.6 gm | C(CC(=O)O)(=O)O | C3H4O4
reactant | ammonium acetate | 30.75 mmol, 2.37 gm | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 35 mLs | C(C)O | C2H6O
product | 3-(cyano)-beta-(amino)benzene propanoic acid | C(#N)C=1C=C(C=CC1)C(CC(=O)O)N | C10H10N2O2
